US05885986
0.82 g (0.0020 mol) of 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 50 ml of ethyl acetate was treated with 0.57 ml (0.0021 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the white suspension was suction filtered. There was obtained 0.82 g (91%) of 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as whitish crystals; m.p. 232°-235° (dec.).

reactant | 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.0020 mol, 0.82 g | C(C)(C)N(C(C)C)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H26FN5O2
reactant | hydrochloric acid | 0.0021 mol, 3.7N, 0.57 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.82 g, 91% | Cl.C(C)(C)N(C(C)C)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C22H26FN5O2.ClH/c1-13(2)27(14(3)4)10-16-9-24-21(30-16)20-19-11-26(5)22(29)17-8-15(23)6-7-18(17)28(19)12-25-20;/h6-9,12-14H,10-11H2,1-5H3;1H
